US06211234B1
A stirred solution of benzyl (3-benzyloxyphenyl) ketone (10 g) in tetrahydrofuran (100 mL) cooled at 0° C. is treated with potassium tert-butoxide (370 mg). After 40 minutes at 0° C., the mixture is treated with methyl acrylate (2.9 g) and stirring is continued at ambient temperature. The reaction is then concentrated under reduced pressure, partitioned between water and ethyl acetate and the organic layer is dried over magnesium sulphate. Concentration gives methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate (11.6 g), in the form of a colourless oil.

reactant | benzyl (3-benzyloxyphenyl) ketone | 10 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(=O)CC1=CC=CC=C1 | C21H18O2
reactant | potassium tert-butoxide | 370 mg | CC(C)([O-])C.[K+]
reactant | methyl acrylate | 2.9 g | C(C=C)(=O)OC | C4H6O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl (RS)-5-(3-benzyloxyphenyl)-5-oxo-4-phenylpentanoate | 11.6 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(CCC(=O)OC)C1=CC=CC=C1)=O | C25H24O4
